US06455521B1
2-Bromo-5-methyl-3-thiophenecarbonyl chloride (2.6 g), prepared in the same manner as above from 2-bromo-5-methyl-3-thiophenecarboxylic acid and thionyl chloride, was suspended in toluene (20 ml). This toluene solution was added dropwise to a solution of 2-amino-3-methylphenol (1.4 g) in pyridine (30 ml) at 0° C. The mixture was stirred at room temperature for 3 hours and diisopropyl ether-ethyl acetate was added. The solvent was evaporated under reduced pressure. The precipitated crystals were collected by filtration, and washed with diluted hydrochloric acid and diisopropyl ether to give N-(2-hydroxy-6-methylphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide (3.0 g).

reactant | 2-Bromo-5-methyl-3-thiophenecarbonyl chloride | 2.6 g | BrC=1SC(=CC1C(=O)Cl)C | C6H4BrClOS
reactant | 2-bromo-5-methyl-3-thiophenecarboxylic acid | BrC=1SC(=CC1C(=O)O)C | C6H5BrO2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-3-methylphenol | 1.4 g | NC1=C(C=CC=C1C)O | C7H9NO
reactant | diisopropyl ether ethyl acetate | C(C)(C)OC(C)C.C(C)(=O)OCC
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | N-(2-hydroxy-6-methylphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide | 3.0 g | OC1=C(C(=CC=C1)C)NC(=O)C1=C(SC(=C1)C)Br | C13H12BrNO2S
